US04261895
(2S)-1-[(2RS)-3-(2-furancarbonylthio)-2-methylpropanoyl]-2-pyrrolidine carboxylic acid
11.4 g (2S)-1-(2- methyl-2-propenoyl)-2-pyrrolidine carboxylic acid are dissolved in 16.5 ml ethanol and 10 g furan-2-thiocarboxylic acid are added dropwise over 15 minutes. The reaction mixture is stirred overnight at room temperature, and methylene chloride and water (9:1) are then added. The so obtained organic phase is decanted and extracted with 0.5 N NaOH. The combined aqueous phases are adjusted to pH 4 and then twice extracted with 0.5 l CH2Cl2. The combined organic phases are dried over MgSO4, filtered and the solvent is evaporated. The residue is dissolved in CH2Cl2 /ether (1:4) and 6 ml tert-butylamine dissolved in ether are added; the tert-butyl ammonium salt of the title compound precipitates (M.P. 132°-140°) ([α]D20 =-67.3°; c=2.2 in H2O).

reactant | (2S)-1-(2- methyl-2-propenoyl)-2-pyrrolidine carboxylic acid | 11.4 g | CC(C(=O)N1[C@@H](CCC1)C(=O)O)=C | C9H13NO3
reactant | furan-2-thiocarboxylic acid | 10 g | O1C(=CC=C1)C(O)=S | C5H4O2S
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | water | O | H2O
solvent | ethanol | 16.5 ml | C(C)O | C2H6O
product | (2S)-1-[(2RS)-3-(2-furancarbonylthio)-2-methylpropanoyl]-2-pyrrolidine carboxylic acid | O1C(=CC=C1)C(=O)SCC(C(=O)N1[C@@H](CCC1)C(=O)O)C | C14H17NO5S
